US09216173B2
To a solution of methyl 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alaninate (80 g, 230 mmol) in THF (800 mL) was added lithium borohydride (20 g, 920 mmol) at 0° C. The reaction mixture was allowed to warm to room temperature. After 1 hour, the reaction mixture was diluted with water and filtered. The filtrate was concentrated under reduced pressure to give benzyl tert-butyl (3-hydroxypropane-1,2-diyl)biscarbamate. MS ESI calc'd. for C16H25N2O5 [M+H]+ 325. found 325. 1H NMR (400 MHz, CDCl3) δ 7.38-7.35 (m, 5H), 5.11 (s, 2H), 4.70 (s, 1H), 4.13-4.11 (m, 1H), 3.66-3.28 (m, 4H), 2.04 (s, 2H), 1.43 (s, 9H).

reactant | methyl 3-{[(benzyloxy)carbonyl]amino}-N-(tert-butoxycarbonyl)alaninate | 230 mmol, 80 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](NC(=O)OC(C)(C)C)C(=O)OC | C17H24N2O6
reactant | lithium borohydride | 920 mmol, 20 g | [BH4-].[Li+]
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | benzyl tert-butyl (3-hydroxypropane-1,2-diyl)biscarbamate | OCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C16H24N2O5
